US05356885
(S)-2-[[[(1,1-Dimethylethyl)dimethylsilyl]oxy]methyl]-1-pyrrolidinecarboxylic acid phenylmethyl ester
A solution 58.0 g of (S)-2-hydroxymethyl-1-pyrrolidine carboxylic acid phenylmethyl ester, 45.0 g of (1,1-dimethylethyl)dimethylsilylchloride, 69 ml of triethylamine, 1.50 g of 4-(dimethylamino)pyridine and 450 ml of methylene chloride is stirred at room temperature for 18 hours. The resulting solution is washed with water, 2N hydrochloric acid, saturated sodium bicarbonate and sodium chloride. The organic layer is dried and concentrated in vacuo. The residue, dissolved in methylene chloride, is filtered through a silica gel pad and concentrated in vacuo to give 76.5 g of the desired product as a colorless oil. [α]D26° =-46° (methylene chloride).

reactant | (S)-2-hydroxymethyl-1-pyrrolidine carboxylic acid phenylmethyl ester | 58.0 g | C1(=CC=CC=C1)COC(=O)N1[C@@H](CCC1)CO | C13H17NO3
reactant | (1,1-dimethylethyl)dimethylsilylchloride | 45.0 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | triethylamine | 69 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 1.50 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-[[[(1,1-Dimethylethyl)dimethylsilyl]oxy]methyl]-1-pyrrolidinecarboxylic acid phenylmethyl ester | 76.5 g | C1(=CC=CC=C1)COC(=O)N1[C@@H](CCC1)CO[Si](C)(C)C(C)(C)C | C19H31NO3Si
